US04206309
(a) 3-Allyl-5,5-dimethylhydantoin
640.6 g (5 mols) of 5,5-dimethylhydantoin, 420.9 g (5 mols+10% excess) of allyl chloride, 380.1 g (2.5 mols+10% excess) of potassium carbonate and 1,000 ml of dimethylformamide are reacted, and worked up, analogously to Example 1. 820 g (97.5% of theory) of a brownish waxy crude product are obtained and are purified by distillation. 713.7 g (84.9% of theory) of a distillate are obtained; this boils at 114° C./13.3 Pas and melts at 66.2°-68.7° C.

reactant | 5,5-dimethylhydantoin | 5 mols, 640.6 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | allyl chloride | 5 mols, 420.9 g | C(C=C)Cl | C3H5Cl
reactant | potassium carbonate | 2.5 mols, 380.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
product | 3-Allyl-5,5-dimethylhydantoin | C(C=C)N1C(NC(C1=O)(C)C)=O | C8H12N2O2
